US04853384
To a solution of 2.22 g of 4-phenyl-4-(3-trifluoromethylphenoxy)piperidine in 50 ml of benzene was added 0.40 g of methyl isocyanate. The reaction mixture was stirred at room temperature for 2.5 hours. Evaporation of the volatile afforded an oil which was purified by means of high pressure liquid chromatography (silica gel; elution with 50% ethyl acetate/dichloromethane) to yield 2.04 g (77%) of 1-(N-methylamino)carbonyl-4-phenyl-4-(3-trifluoromethylphenoxy)piperidine, m.p. 124°-127° C.

reactant | 4-phenyl-4-(3-trifluoromethylphenoxy)piperidine | 2.22 g | C1(=CC=CC=C1)C1(CCNCC1)OC1=CC(=CC=C1)C(F)(F)F | C18H18F3NO
reactant | methyl isocyanate | 0.40 g | CN=C=O | C2H3NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(N-methylamino)carbonyl-4-phenyl-4-(3-trifluoromethylphenoxy)piperidine | 2.04 g, 77% | CNC(=O)N1CCC(CC1)(OC1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C20H21F3N2O2
